US08648066B2
methyl {6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-1H-imidazo[4,5-b]pyridin-2-yl}carbamate
A mixture of 5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-2,3-diamine (174 mg, 0.42 mmol) and 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea (86 mg, 0.42 mmol) in acetic acid (5 mL) was stirred at 80° C. for 10 h. After cooling to room temperature the mixture was concentrated, methanol (10 mL) was added, the precipitate was filtered off, and lyophilized from a mixture of acetonitrile (2 mL), water (6 mL), and 1N hydrochloric acid (0.25 mL) to give the hydrochloride salt of the title Compound (107 mg, 48% yield) as a yellow solid. 1H NMR (400 MHz, methanol-d4): 8.53 (m, 2H), 8.35 (s, 1H), 7.78 (s, 1H), 7.58 (d, 1H), 7.10 (d, 1H), 5.18 (s, 2H), 4.49 (m, 2H), 4.34 (m, 2H), 3.93 (s, 3H), 2.86 (m, 2H), 2.61 (s, 2H), 1.71 (m, 2H), 0.95 (s, 6H); MS (EI) for C27H29N7O3: 500 (MH+).

reactant | 5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-2,3-diamine | 0.42 mmol, 174 mg | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C(C(=NC2)N)N)C | C24H28N6O
reactant | 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea | 0.42 mmol, 86 mg | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | methyl {6-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]-1H-imidazo[4,5-b]pyridin-2-yl}carbamate | 107 mg, 48% yield | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=C1C(=NC2)N=C(N1)NC(OC)=O)C | C27H29N7O3
